US04576958
(F) 4-Phenyl-5-(4-methylsulfonylphenyl)-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanol (I, R=H)
A mixture of 4.0 g (9.25 mmoles) of 4-phenyl-5-(4-methylthiophenyl)-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanol, 14.2 g (23.1 mmoles) of Oxone® and 115 ml of methanol were stirred overnight. The inorganic solid was filtered off, and the filtrate was concentrated to dryness. The residue was partitioned between ethyl acetate and water and the organic layer was separated. The organic layer was washed with brine and water, dried over anhydrous magnesium sulfate and concentrated in vacuo. The product was recrystallized from a mixture of dichloroethane and butyl chloride affording 2.89 g (67%) of the title compound as a white solid, m.p. 223°-225°.

reactant | 4-phenyl-5-(4-methylthiophenyl)-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanol | 9.25 mmoles, 4.0 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=C(C=C1)SC)C(O)(C(F)(F)F)C(F)(F)F | C19H14F6N2OS
reactant | Oxone | 23.1 mmoles, 14.2 g | OOS(=O)[O-].[K+]
reactant | methanol | 115 ml | CO | CH4O
product | 4-Phenyl-5-(4-methylsulfonylphenyl)-α,α-bis(trifluoromethyl)-1H-imidazole-2-methanol | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=C(C=C1)S(=O)(=O)C)C(O)(C(F)(F)F)C(F)(F)F | C19H14F6N2O3S
